US05652370
Step b: 4-(4-Chloro-1-oxobutyl)-2,2-dimethylphenethyl acetate
Charge a flask with aluminum chloride (223 g, 1.68 mol) and methylene chloride (200 mL). Place under a nitrogen atmosphere, cool to 0°-5° C. and add, by dropwise addition, ω-chlorobutyryl chloride (188.6 g, 1.34 mol). After acid chloride addition is complete, add, by dropwise addition, 2,2-dimethylphenethyl acetate (128.0 g, 0.67 mol), keeping the temperature at approximately 0° C. Continue stirring at 0° C. for 2 hours, quench by slowly pouring over approximately 2 L of crushed ice. Add methylene chloride (500 mL) and stir for 5 minutes. Separate the organic phase and extract the aqueous phase with methylene chloride (300 mL). Combine the organic phases and wash with saturated aqueous sodium hydrogen carbonate (3×200 mL), with deionized water (200 mL) and brine (200 mL). Dry (MgSO4) and stir for 30 minutes before filtering. Evaporate the solvent in vacuo and purify by chromatography (ethyl acetate/hexane) to give the title compound as an orange/brown oil.

reactant | aluminum chloride | 1.68 mol, 223 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,2-dimethylphenethyl acetate | 0.67 mol, 128.0 g | C(C)(=O)OCCC1C(C=CC=C1)(C)C | C12H18O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-1-oxobutyl)-2,2-dimethylphenethyl acetate | C(C)(=O)OCCC1C(C=C(C=C1)C(CCCCl)=O)(C)C | C16H23ClO3
